* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0026607104014444213
Fd1_1 0 s1 V1 -0.13303552007222108
Gr1_re_1_1 0 s1 x1_re_a1 0 3796931483.4706693
Gr1_im_1_1 0 s1 x1_im_a1 0 -345873042.8149675
Gr2_re_1_1 0 s1 x2_re_a1 0 -356358140.4421633
Gr2_im_1_1 0 s1 x2_im_a1 0 -2784456612.8708763
Gr3_re_1_1 0 s1 x3_re_a1 0 -142781077.94658726
Gr3_im_1_1 0 s1 x3_im_a1 0 36094161.82416701
Gr4_re_1_1 0 s1 x4_re_a1 0 -55776420.643512085
Gr4_im_1_1 0 s1 x4_im_a1 0 61494214.63181948
Gr5_re_1_1 0 s1 x5_re_a1 0 -4612057.881357446
Gr5_im_1_1 0 s1 x5_im_a1 0 -72991672.62558267
Gr6_re_1_1 0 s1 x6_re_a1 0 59936704.83411561
Gr6_im_1_1 0 s1 x6_im_a1 0 -38770278.77798333
Gd1_2 0 s1 p2 0 -6.411212705975511e-06
Fd1_2 0 s1 V2 -0.0003205606352987756
Gr1_re_1_2 0 s1 x1_re_a2 0 9155758.793540683
Gr1_im_1_2 0 s1 x1_im_a2 0 -3598901.2686458686
Gr2_re_1_2 0 s1 x2_re_a2 0 9137286.515585635
Gr2_im_1_2 0 s1 x2_im_a2 0 -34566778.5563454
Gr3_re_1_2 0 s1 x3_re_a2 0 -18527219.5440239
Gr3_im_1_2 0 s1 x3_im_a2 0 5662159.961350352
Gr4_re_1_2 0 s1 x4_re_a2 0 -12199798.321105689
Gr4_im_1_2 0 s1 x4_im_a2 0 9615733.212962365
Gr5_re_1_2 0 s1 x5_re_a2 0 -11393693.066524554
Gr5_im_1_2 0 s1 x5_im_a2 0 -18756136.96062641
Gr6_re_1_2 0 s1 x6_re_a2 0 6634655.023517096
Gr6_im_1_2 0 s1 x6_im_a2 0 -13228676.523702433
Gd1_3 0 s1 p3 0 -6.356468364243771e-09
Fd1_3 0 s1 V3 -3.1782341821218856e-07
Gr1_re_1_3 0 s1 x1_re_a3 0 -4200.357456728444
Gr1_im_1_3 0 s1 x1_im_a3 0 1490.340597137098
Gr2_re_1_3 0 s1 x2_re_a3 0 -2420.683702857054
Gr2_im_1_3 0 s1 x2_im_a3 0 -9721.559688818166
Gr3_re_1_3 0 s1 x3_re_a3 0 1004.0740937519437
Gr3_im_1_3 0 s1 x3_im_a3 0 95.58554006117804
Gr4_re_1_3 0 s1 x4_re_a3 0 89.89941105057115
Gr4_im_1_3 0 s1 x4_im_a3 0 192.0417145596366
Gr5_re_1_3 0 s1 x5_re_a3 0 -54.04587773098282
Gr5_im_1_3 0 s1 x5_im_a3 0 280.912821007452
Gr6_re_1_3 0 s1 x6_re_a3 0 -286.49534157345386
Gr6_im_1_3 0 s1 x6_im_a3 0 -358.8529019811527
Gd1_4 0 s1 p4 0 -1.2319044720912448e-08
Fd1_4 0 s1 V4 -6.159522360456224e-07
Gr1_re_1_4 0 s1 x1_re_a4 0 -6304.372863541439
Gr1_im_1_4 0 s1 x1_im_a4 0 -375.94774249639374
Gr2_re_1_4 0 s1 x2_re_a4 0 -1942.5701559517584
Gr2_im_1_4 0 s1 x2_im_a4 0 -15961.222741790492
Gr3_re_1_4 0 s1 x3_re_a4 0 -4472.764078017764
Gr3_im_1_4 0 s1 x3_im_a4 0 1560.7274477676815
Gr4_re_1_4 0 s1 x4_re_a4 0 -128.16279234757386
Gr4_im_1_4 0 s1 x4_im_a4 0 922.8626288757347
Gr5_re_1_4 0 s1 x5_re_a4 0 -290.93450232859163
Gr5_im_1_4 0 s1 x5_im_a4 0 101.55850315850034
Gr6_re_1_4 0 s1 x6_re_a4 0 -216.40294030553252
Gr6_im_1_4 0 s1 x6_im_a4 0 -264.039185902607
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 5.423769759973315e-11
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 279270884616.0859
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -279270884616.0859
Rp1_im_im_a1 0 x1_im_a1 5.423769759973315e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 3.936464589701936e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 210728730726.9268
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -210728730726.9268
Rp2_im_im_a1 0 x2_im_a1 3.936464589701936e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 5.621549985910768e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 172799467200.52682
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -172799467200.52682
Rp3_im_im_a1 0 x3_im_a1 5.621549985910768e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.4315658755421736e-09
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 97828200114.28714
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -97828200114.28714
Rp4_im_im_a1 0 x4_im_a1 1.4315658755421736e-09
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.4664024528628588e-09
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 127030932313.73926
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -127030932313.73926
Rp5_im_im_a1 0 x5_im_a1 1.4664024528628588e-09
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.5998839048725997e-09
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 112899982443.49548
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -112899982443.49548
Rp6_im_im_a1 0 x6_im_a1 1.5998839048725997e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -6.280409374267414e-06
Fd2_1 0 s2 V1 -0.0003140204687133707
Gr1_re_2_1 0 s2 x1_re_a1 0 9114751.168504633
Gr1_im_2_1 0 s2 x1_im_a1 0 -3580649.5760925855
Gr2_re_2_1 0 s2 x2_re_a1 0 9006952.053743253
Gr2_im_2_1 0 s2 x2_im_a1 0 -34563244.96065898
Gr3_re_2_1 0 s2 x3_re_a1 0 -18493683.194010593
Gr3_im_2_1 0 s2 x3_im_a1 0 5716980.4982525995
Gr4_re_2_1 0 s2 x4_re_a1 0 -12174125.27329892
Gr4_im_2_1 0 s2 x4_im_a1 0 9621451.551849127
Gr5_re_2_1 0 s2 x5_re_a1 0 -11422978.506728793
Gr5_im_2_1 0 s2 x5_im_a1 0 -18716999.52787675
Gr6_re_2_1 0 s2 x6_re_a1 0 6607094.111054131
Gr6_im_2_1 0 s2 x6_im_a1 0 -13217915.498854913
Gd2_2 0 s2 p2 0 -0.0026531796806769582
Fd2_2 0 s2 V2 -0.1326589840338479
Gr1_re_2_2 0 s2 x1_re_a2 0 3845602884.683834
Gr1_im_2_2 0 s2 x1_im_a2 0 -13915620.392793722
Gr2_re_2_2 0 s2 x2_re_a2 0 -91520772.56508107
Gr2_im_2_2 0 s2 x2_im_a2 0 -2941109831.4179683
Gr3_re_2_2 0 s2 x3_re_a2 0 -131858364.50282955
Gr3_im_2_2 0 s2 x3_im_a2 0 24410371.609662354
Gr4_re_2_2 0 s2 x4_re_a2 0 -60233071.53351395
Gr4_im_2_2 0 s2 x4_im_a2 0 61270412.95151842
Gr5_re_2_2 0 s2 x5_re_a2 0 9845198.907354815
Gr5_im_2_2 0 s2 x5_im_a2 0 -77015185.9342553
Gr6_re_2_2 0 s2 x6_re_a2 0 65402945.39911658
Gr6_im_2_2 0 s2 x6_im_a2 0 -27071368.978806794
Gd2_3 0 s2 p3 0 2.9810807736943694e-08
Fd2_3 0 s2 V3 1.4905403868471847e-06
Gr1_re_2_3 0 s2 x1_re_a3 0 -34106.83046643757
Gr1_im_2_3 0 s2 x1_im_a3 0 11511.062943469347
Gr2_re_2_3 0 s2 x2_re_a3 0 -22271.388502547183
Gr2_im_2_3 0 s2 x2_im_a3 0 18529.322076700733
Gr3_re_2_3 0 s2 x3_re_a3 0 3017.8030220325577
Gr3_im_2_3 0 s2 x3_im_a3 0 3195.3708128914554
Gr4_re_2_3 0 s2 x4_re_a3 0 -431.895145363747
Gr4_im_2_3 0 s2 x4_im_a3 0 -83.07840278016735
Gr5_re_2_3 0 s2 x5_re_a3 0 553.3866259381517
Gr5_im_2_3 0 s2 x5_im_a3 0 755.4387265225797
Gr6_re_2_3 0 s2 x6_re_a3 0 -56.88834434218918
Gr6_im_2_3 0 s2 x6_im_a3 0 465.7855132989384
Gd2_4 0 s2 p4 0 1.5632584490327688e-08
Fd2_4 0 s2 V4 7.816292245163844e-07
Gr1_re_2_4 0 s2 x1_re_a4 0 4887.929838966882
Gr1_im_2_4 0 s2 x1_im_a4 0 40086.7996180423
Gr2_re_2_4 0 s2 x2_re_a4 0 37210.15985268946
Gr2_im_2_4 0 s2 x2_im_a4 0 -4199.081119266084
Gr3_re_2_4 0 s2 x3_re_a4 0 -1203.9864003258851
Gr3_im_2_4 0 s2 x3_im_a4 0 -5104.537578064619
Gr4_re_2_4 0 s2 x4_re_a4 0 -172.42369016562202
Gr4_im_2_4 0 s2 x4_im_a4 0 -367.7189149267293
Gr5_re_2_4 0 s2 x5_re_a4 0 320.09301993333133
Gr5_im_2_4 0 s2 x5_im_a4 0 -24.067784479898975
Gr6_re_2_4 0 s2 x6_re_a4 0 -12.930815357013458
Gr6_im_2_4 0 s2 x6_im_a4 0 10.723274648705939
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 5.423769759973315e-11
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 279270884616.0859
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -279270884616.0859
Rp1_im_im_a2 0 x1_im_a2 5.423769759973315e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 3.936464589701936e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 210728730726.9268
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -210728730726.9268
Rp2_im_im_a2 0 x2_im_a2 3.936464589701936e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 5.621549985910768e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 172799467200.52682
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -172799467200.52682
Rp3_im_im_a2 0 x3_im_a2 5.621549985910768e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.4315658755421736e-09
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 97828200114.28714
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -97828200114.28714
Rp4_im_im_a2 0 x4_im_a2 1.4315658755421736e-09
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.4664024528628588e-09
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 127030932313.73926
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -127030932313.73926
Rp5_im_im_a2 0 x5_im_a2 1.4664024528628588e-09
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.5998839048725997e-09
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 112899982443.49548
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -112899982443.49548
Rp6_im_im_a2 0 x6_im_a2 1.5998839048725997e-09
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 1.2158207063174254e-08
Fd3_1 0 s3 V1 6.079103531587127e-07
Gr1_re_3_1 0 s3 x1_re_a1 0 -3471.9658908882393
Gr1_im_3_1 0 s3 x1_im_a1 0 14423.296148628608
Gr2_re_3_1 0 s3 x2_re_a1 0 16856.81813541562
Gr2_im_3_1 0 s3 x2_im_a1 0 5875.411511612949
Gr3_re_3_1 0 s3 x3_re_a1 0 381.88106087123674
Gr3_im_3_1 0 s3 x3_im_a1 0 -2024.0635271619387
Gr4_re_3_1 0 s3 x4_re_a1 0 196.98565965279752
Gr4_im_3_1 0 s3 x4_im_a1 0 277.2735437103797
Gr5_re_3_1 0 s3 x5_re_a1 0 46.65436201623389
Gr5_im_3_1 0 s3 x5_im_a1 0 -520.0306151482513
Gr6_re_3_1 0 s3 x6_re_a1 0 -177.94278000360669
Gr6_im_3_1 0 s3 x6_im_a1 0 520.117136927222
Gd3_2 0 s3 p2 0 -7.055423104173848e-09
Fd3_2 0 s3 V2 -3.527711552086924e-07
Gr1_re_3_2 0 s3 x1_re_a2 0 14957.929659599637
Gr1_im_3_2 0 s3 x1_im_a2 0 -2111.482303942151
Gr2_re_3_2 0 s3 x2_re_a2 0 -1623.9648774095224
Gr2_im_3_2 0 s3 x2_im_a2 0 -4685.028740104918
Gr3_re_3_2 0 s3 x3_re_a2 0 -96.17643430582068
Gr3_im_3_2 0 s3 x3_im_a2 0 -104.12254678033845
Gr4_re_3_2 0 s3 x4_re_a2 0 -389.20364096349175
Gr4_im_3_2 0 s3 x4_im_a2 0 163.913467984272
Gr5_re_3_2 0 s3 x5_re_a2 0 -33.99645099511961
Gr5_im_3_2 0 s3 x5_im_a2 0 270.50753611715646
Gr6_re_3_2 0 s3 x6_re_a2 0 147.60929820830825
Gr6_im_3_2 0 s3 x6_im_a2 0 -290.0873856112719
Gd3_3 0 s3 p3 0 0.0002542795461730813
Fd3_3 0 s3 V3 0.012713977308654065
Gr1_re_3_3 0 s3 x1_re_a3 0 -323050073.4477526
Gr1_im_3_3 0 s3 x1_im_a3 0 151573908.6830915
Gr2_re_3_3 0 s3 x2_re_a3 0 -79755473.29731321
Gr2_im_3_3 0 s3 x2_im_a3 0 272008661.3329413
Gr3_re_3_3 0 s3 x3_re_a3 0 11253239.696082037
Gr3_im_3_3 0 s3 x3_im_a3 0 1547575.8912321022
Gr4_re_3_3 0 s3 x4_re_a3 0 3570216.6348584923
Gr4_im_3_3 0 s3 x4_im_a3 0 4275550.094493573
Gr5_re_3_3 0 s3 x5_re_a3 0 -9939336.949373318
Gr5_im_3_3 0 s3 x5_im_a3 0 5685920.765565349
Gr6_re_3_3 0 s3 x6_re_a3 0 -1079816.1528471478
Gr6_im_3_3 0 s3 x6_im_a3 0 12911132.312059404
Gd3_4 0 s3 p4 0 1.0904001776012993e-07
Fd3_4 0 s3 V4 5.452000888006497e-06
Gr1_re_3_4 0 s3 x1_re_a4 0 -48461.063429174574
Gr1_im_3_4 0 s3 x1_im_a4 0 -43385.16342924596
Gr2_re_3_4 0 s3 x2_re_a4 0 -191055.18696840724
Gr2_im_3_4 0 s3 x2_im_a4 0 122252.19172081277
Gr3_re_3_4 0 s3 x3_re_a4 0 48810.45698658862
Gr3_im_3_4 0 s3 x3_im_a4 0 47923.83870369026
Gr4_re_3_4 0 s3 x4_re_a4 0 22060.206689254526
Gr4_im_3_4 0 s3 x4_im_a4 0 17009.831972495256
Gr5_re_3_4 0 s3 x5_re_a4 0 153402.56430264842
Gr5_im_3_4 0 s3 x5_im_a4 0 105023.77539337332
Gr6_re_3_4 0 s3 x6_re_a4 0 -30526.465408680186
Gr6_im_3_4 0 s3 x6_im_a4 0 93093.9573628782
*
* State networks driven by port 3
Cx1_re_a3 x1_re_a3 0 1.0
Gx1_re_a3 0 x1_re_a3 p3 0 0.1414213562373095
Fx1_re_a3 0 x1_re_a3 V3 7.0710678118654755
Rp1_re_re_a3 0 x1_re_a3 5.423769759973315e-11
Gp1_re_im_a3 0 x1_re_a3 x1_im_a3 0 279270884616.0859
Cx1_im_a3 x1_im_a3 0 1.0
Gp1_im_re_a3 0 x1_im_a3 x1_re_a3 0 -279270884616.0859
Rp1_im_im_a3 0 x1_im_a3 5.423769759973315e-11
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 3.936464589701936e-11
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 210728730726.9268
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -210728730726.9268
Rp2_im_im_a3 0 x2_im_a3 3.936464589701936e-11
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 5.621549985910768e-10
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 172799467200.52682
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -172799467200.52682
Rp3_im_im_a3 0 x3_im_a3 5.621549985910768e-10
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 1.4315658755421736e-09
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 97828200114.28714
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -97828200114.28714
Rp4_im_im_a3 0 x4_im_a3 1.4315658755421736e-09
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 1.4664024528628588e-09
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 127030932313.73926
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -127030932313.73926
Rp5_im_im_a3 0 x5_im_a3 1.4664024528628588e-09
Cx6_re_a3 x6_re_a3 0 1.0
Gx6_re_a3 0 x6_re_a3 p3 0 0.1414213562373095
Fx6_re_a3 0 x6_re_a3 V3 7.0710678118654755
Rp6_re_re_a3 0 x6_re_a3 1.5998839048725997e-09
Gp6_re_im_a3 0 x6_re_a3 x6_im_a3 0 112899982443.49548
Cx6_im_a3 x6_im_a3 0 1.0
Gp6_im_re_a3 0 x6_im_a3 x6_re_a3 0 -112899982443.49548
Rp6_im_im_a3 0 x6_im_a3 1.5998839048725997e-09
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 -5.851065031209697e-09
Fd4_1 0 s4 V1 -2.925532515604849e-07
Gr1_re_4_1 0 s4 x1_re_a1 0 -1546.3231276232705
Gr1_im_4_1 0 s4 x1_im_a1 0 8567.28740548503
Gr2_re_4_1 0 s4 x2_re_a1 0 11830.776395470717
Gr2_im_4_1 0 s4 x2_im_a1 0 -11793.573938202848
Gr3_re_4_1 0 s4 x3_re_a1 0 -645.61167043651
Gr3_im_4_1 0 s4 x3_im_a1 0 -1014.0755550415774
Gr4_re_4_1 0 s4 x4_re_a1 0 388.36508966489185
Gr4_im_4_1 0 s4 x4_im_a1 0 -43.8067206665853
Gr5_re_4_1 0 s4 x5_re_a1 0 183.9599474869871
Gr5_im_4_1 0 s4 x5_im_a1 0 -118.89446045864942
Gr6_re_4_1 0 s4 x6_re_a1 0 79.58462634800992
Gr6_im_4_1 0 s4 x6_im_a1 0 -449.4751550784203
Gd4_2 0 s4 p2 0 2.7920506367042008e-08
Fd4_2 0 s4 V2 1.3960253183521004e-06
Gr1_re_4_2 0 s4 x1_re_a2 0 4130.666657186606
Gr1_im_4_2 0 s4 x1_im_a2 0 27496.73897239728
Gr2_re_4_2 0 s4 x2_re_a2 0 5985.64767527169
Gr2_im_4_2 0 s4 x2_im_a2 0 5144.007300607042
Gr3_re_4_2 0 s4 x3_re_a2 0 457.3601452796628
Gr3_im_4_2 0 s4 x3_im_a2 0 222.82710938565896
Gr4_re_4_2 0 s4 x4_re_a2 0 76.8048433179265
Gr4_im_4_2 0 s4 x4_im_a2 0 -334.99078344152645
Gr5_re_4_2 0 s4 x5_re_a2 0 652.8873621361041
Gr5_im_4_2 0 s4 x5_im_a2 0 -309.4598498190001
Gr6_re_4_2 0 s4 x6_re_a2 0 280.31110176837115
Gr6_im_4_2 0 s4 x6_im_a2 0 365.2705773658278
Gd4_3 0 s4 p3 0 8.720403480694328e-08
Fd4_3 0 s4 V3 4.360201740347164e-06
Gr1_re_4_3 0 s4 x1_re_a3 0 -29712.561229376708
Gr1_im_4_3 0 s4 x1_im_a3 0 -16849.093967658337
Gr2_re_4_3 0 s4 x2_re_a3 0 -163669.8188400274
Gr2_im_4_3 0 s4 x2_im_a3 0 116749.79535271435
Gr3_re_4_3 0 s4 x3_re_a3 0 48054.13152648837
Gr3_im_4_3 0 s4 x3_im_a3 0 45962.507510507436
Gr4_re_4_3 0 s4 x4_re_a3 0 22541.934958239985
Gr4_im_4_3 0 s4 x4_im_a3 0 15959.406716307783
Gr5_re_4_3 0 s4 x5_re_a3 0 153860.57312608467
Gr5_im_4_3 0 s4 x5_im_a3 0 104175.9568157809
Gr6_re_4_3 0 s4 x6_re_a3 0 -29946.1265638276
Gr6_im_4_3 0 s4 x6_im_a3 0 92806.65765981894
Gd4_4 0 s4 p4 0 0.0004329870050760403
Fd4_4 0 s4 V4 0.021649350253802015
Gr1_re_4_4 0 s4 x1_re_a4 0 -239112256.4405052
Gr1_im_4_4 0 s4 x1_im_a4 0 233017583.7314917
Gr2_re_4_4 0 s4 x2_re_a4 0 -182453464.3209819
Gr2_im_4_4 0 s4 x2_im_a4 0 295658318.8467064
Gr3_re_4_4 0 s4 x3_re_a4 0 -32277283.19922569
Gr3_im_4_4 0 s4 x3_im_a4 0 23008732.835221633
Gr4_re_4_4 0 s4 x4_re_a4 0 83501.97162760803
Gr4_im_4_4 0 s4 x4_im_a4 0 5083451.496094442
Gr5_re_4_4 0 s4 x5_re_a4 0 -5521232.963904772
Gr5_im_4_4 0 s4 x5_im_a4 0 857424.5204095657
Gr6_re_4_4 0 s4 x6_re_a4 0 -5662177.160622902
Gr6_im_4_4 0 s4 x6_im_a4 0 1956255.370722558
*
* State networks driven by port 4
Cx1_re_a4 x1_re_a4 0 1.0
Gx1_re_a4 0 x1_re_a4 p4 0 0.1414213562373095
Fx1_re_a4 0 x1_re_a4 V4 7.0710678118654755
Rp1_re_re_a4 0 x1_re_a4 5.423769759973315e-11
Gp1_re_im_a4 0 x1_re_a4 x1_im_a4 0 279270884616.0859
Cx1_im_a4 x1_im_a4 0 1.0
Gp1_im_re_a4 0 x1_im_a4 x1_re_a4 0 -279270884616.0859
Rp1_im_im_a4 0 x1_im_a4 5.423769759973315e-11
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 3.936464589701936e-11
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 210728730726.9268
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -210728730726.9268
Rp2_im_im_a4 0 x2_im_a4 3.936464589701936e-11
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 5.621549985910768e-10
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 172799467200.52682
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -172799467200.52682
Rp3_im_im_a4 0 x3_im_a4 5.621549985910768e-10
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 1.4315658755421736e-09
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 97828200114.28714
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -97828200114.28714
Rp4_im_im_a4 0 x4_im_a4 1.4315658755421736e-09
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 1.4664024528628588e-09
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 127030932313.73926
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -127030932313.73926
Rp5_im_im_a4 0 x5_im_a4 1.4664024528628588e-09
Cx6_re_a4 x6_re_a4 0 1.0
Gx6_re_a4 0 x6_re_a4 p4 0 0.1414213562373095
Fx6_re_a4 0 x6_re_a4 V4 7.0710678118654755
Rp6_re_re_a4 0 x6_re_a4 1.5998839048725997e-09
Gp6_re_im_a4 0 x6_re_a4 x6_im_a4 0 112899982443.49548
Cx6_im_a4 x6_im_a4 0 1.0
Gp6_im_re_a4 0 x6_im_a4 x6_re_a4 0 -112899982443.49548
Rp6_im_im_a4 0 x6_im_a4 1.5998839048725997e-09
.ENDS s_equivalent
